US07842821B2
triphenylphosphine (6.8 g); cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide (5 g) and N-ethyl-2-nitrobenzenesulfonamide (5.54 g) are mixed under nitrogen atmosphere. The mixture is cooled at −30° C. and diisopropyl azadicarboxylate (4.8 mL) is added. It is stirred until completing the transformation. It is filtered, washed and dried. The isolated raw product is column-purified to give 8.07 g of trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide.

reactant | triphenylphosphine | 6.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | cis-4-hydroxy-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 5 g | O[C@@H]1C2=C(S([C@@H](C1)C)(=O)=O)SC=C2 | C8H10O3S2
reactant | N-ethyl-2-nitrobenzenesulfonamide | 5.54 g | C(C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H10N2O4S
product | trans-4-[N-ethyl-N-(2-nitrobenzenesulfonyl)amino]-5,6-dihydro-6-methyl-4-H-thieno-[2,3-b]-thiopyran-7,7-dioxide | 8.07 g | C(C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])[C@@H]1C2=C(S([C@H](C1)C)(=O)=O)SC=C2 | C16H18N2O6S3
